US07129232B2
To a suspension of phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (4.6 g) in N,N-dimethylformamide (32 ml) were added triethylamine (1.08 g) and tertbutyl 1-piperazinecarboxylate (1.99 g). The reaction mixture was stirred for 3 hours and poured into water. The mixture was extracted with ethyl acetate, and the organic layer was concentrated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate→ethyl acetate:ethanol=20:1) to give tert-butyl 4-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1-piperazinecarboxylate (4.7 g)

reactant | phenyl [1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 4.6 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C30H26N4O2
reactant | triethylamine | 1.08 g | C(C)N(CC)CC | C6H15N
reactant | tertbutyl 1-piperazinecarboxylate | 1.99 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
product | tert-butyl 4-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1-piperazinecarboxylate | 4.7 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C33H38N6O3
